US07399759B2
2-{6-[(4-Benzyl-1-piperidyl)methyl]-2-pyridyl}-4H-1,3-benzothiazine-4-one
6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridylmethanesulfonate (0.30 g, 0.86 mmol), triethylamine (0.20 ml, 1.42 mmol) and 4-benzylpiperidine (0.17 g, 0.95 mmol) were dissolved in DMF (30 ml), and the mixture was stirred at 70° C. for 18 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from n-hexane-ethyl acetate to give the titled compound (0.25 g, 67%) as pale yellow crystals.

reactant | 6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridylmethanesulfonate | 0.86 mmol, 0.30 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CS(=O)(=O)[O-]
reactant | triethylamine | 1.42 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzylpiperidine | 0.95 mmol, 0.17 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-{6-[(4-Benzyl-1-piperidyl)methyl]-2-pyridyl}-4H-1,3-benzothiazine-4-one | 0.25 g, 67% | C(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C26H25N3OS
